US06492348B1
(2R,3R,4R,5S)4-(acetyloxy)-5-(3-bromoisoxazol-5-yl)-2-[6-(4-chloro-2-fluoroanilino)-9H-purin-9-yl]tetrahydrofuran-3-yl acetate
(2R,3R,4R,5R)-4-(acetyloxy)-2-[6-(4-chloro-2-fluoroanilino)-9H-purin-9-yl]-5-ethynyltetrahydrofuran-3-yl acetate (20 mg) was stirred at 22° C. with dibromoformaldoxime (12.5 mg), sodium bicarbonate (39 mg), water (0.075 ml) and ethyl acetate (1.5 ml) for 88 h. The mixture was partitioned between water (20 ml) and ethyl acetate (3×10 ml), the organic layers were washed with brine and evaporated in vacuo to give a brown gum (19 mg). Purification by chromatography on silica gel (Varian Bondelut cartridge), eluting with ethyl acetate:cyclohexane 20:80-80:20) gave the title compound as a colourless gum (16.8 mg).

reactant | (2R,3R,4R,5R)-4-(acetyloxy)-2-[6-(4-chloro-2-fluoroanilino)-9H-purin-9-yl]-5-ethynyltetrahydrofuran-3-yl acetate | 20 mg | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C)=O)C#C)N1C2=NC=NC(=C2N=C1)NC1=C(C=C(C=C1)Cl)F | C21H17ClFN5O5
reactant | dibromoformaldoxime | 12.5 mg | BrC(=NO)Br | CHBr2NO
reactant | sodium bicarbonate | 39 mg | C([O-])(O)=O.[Na+]
reactant | water | 0.075 ml | O | H2O
solvent | ethyl acetate | 1.5 ml | C(C)(=O)OCC | C4H8O2
product | (2R,3R,4R,5S)4-(acetyloxy)-5-(3-bromoisoxazol-5-yl)-2-[6-(4-chloro-2-fluoroanilino)-9H-purin-9-yl]tetrahydrofuran-3-yl acetate | 19 mg | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C)=O)C1=CC(=NO1)Br)N1C2=NC=NC(=C2N=C1)NC1=C(C=C(C=C1)Cl)F | C22H17BrClFN6O6
